US05328911
7-methyl-3[(2'-(1H-tetrazol-5-yl)-biphenyl-4-yl)methyl]-1,3-dihydro-2-oxo-imidazo[4.5-b]pyridine
A mixture of 90 mg (0.23 mmol) of 2-methoxy-7-methyl-3[(2'-(1H-tetrazol-5-yl) -biphenyl-4-yl)methyl]-3H-imidazo[4.5-b]pyridine and 1 ml of 48% HBr was stirred at a room temperature for 1.5 hours. The product mixture was mixed with water to produce crystals, which was taken out and washed with water to obtain 70 mg of the intended compound.

reactant | 2-methoxy-7-methyl-3[(2'-(1H-tetrazol-5-yl) -biphenyl-4-yl)methyl]-3H-imidazo[4.5-b]pyridine | 0.23 mmol, 90 mg | COC1=NC=2C(=NC=CC2C)N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1 | C22H19N7O
reactant | HBr | 1 ml | Br | BrH
solvent | water | O | H2O
product | 7-methyl-3[(2'-(1H-tetrazol-5-yl)-biphenyl-4-yl)methyl]-1,3-dihydro-2-oxo-imidazo[4.5-b]pyridine | 70 mg | CC1=C2C(=NC=C1)N(C(N2)=O)CC2=CC=C(C=C2)C2=C(C=CC=C2)C2=NN=NN2 | C21H17N7O
